US07432288B2
3-Chloro-1-[4-(dimethylamino)benzyl]-4-phenyl-1H-pyrrole-2,5-dione
To a solution of 3-chloro-4-phenylfuran-2,5-dione (0.20 mmol, 42 mg) and 4-dimethylaminobenzylamine dihydrochloride (0.20 mmol, 45 mg) in glacial acetic acid (1 mL) was added triethylamine (0.40 mmol). The mixture was heated in a microwave reactor at 120° C. for two min. After cooling, the solvent was evaporated at reduced pressure. The reaction mixture was purified by HPLC (95% 0.1M ammonium acetate buffer: 5% CH3CN→100% CH3CN).

reactant | 3-chloro-4-phenylfuran-2,5-dione | 0.20 mmol, 42 mg | ClC=1C(OC(C1C1=CC=CC=C1)=O)=O | C10H5ClO3
reactant | 4-dimethylaminobenzylamine dihydrochloride | 0.20 mmol, 45 mg | Cl.Cl.CN(C1=CC=C(CN)C=C1)C
reactant | triethylamine | 0.40 mmol | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 3-Chloro-1-[4-(dimethylamino)benzyl]-4-phenyl-1H-pyrrole-2,5-dione | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC1=CC=C(C=C1)N(C)C)=O | C19H17ClN2O2
